US07273936B2
To a stirred solution of benzo[1,3]dioxole-5-carbaldehyde (657 mg, 4.83 mmol) in methanol (15 mL) was added potassium carbonate (786 mg, 5.69 mmol, 1.3 equiv) and 1-isocyanomethanesulfonyl-4-methyl-benzene (863 mg, 4.38 mmol, 1 equiv). The resulting solution was heated to 70° C. under a nitrogen atmosphere for 3 hours, cooled to ambient temperature, and concentrated in vacuo. The residue was partitioned between methylene chloride and water, and the aqueous layer was extracted three times with methylene chloride. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Silica gel chromatography (30% ethyl acetate in hexanes) provided 5-benzo[1,3]dioxol-5-yl-oxazole (676 mg, 82%).

reactant | benzo[1,3]dioxole-5-carbaldehyde | 4.83 mmol, 657 mg | O1COC2=C1C=CC(=C2)C=O | C8H6O3
reactant | potassium carbonate | 5.69 mmol, 786 mg, 1.3 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 1-isocyanomethanesulfonyl-4-methyl-benzene | 4.38 mmol, 863 mg, 1 equiv | [N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | C9H9NO2S
solvent | methanol | 15 mL | CO | CH4O
product | 5-benzo[1,3]dioxol-5-yl-oxazole | 676 mg, 82% | O1COC2=C1C=CC(=C2)C2=CN=CO2 | C10H7NO3
